US05861510
To a solution of glycine t-butyl ester (5.0 grams, 29.82 mmol) in methylene chloride (50 ml) is added triethylamine (6.65 ml, 62.63 mmol) followed by 4-methoxybenzenesulfonyl chloride (29.82 mmol, 6.2 grams). The solution is stirred for 24 hours, diluted with water and extracted with ethyl acetate. The combined extracts are dried (sodium sulfate), filtered and concentrated. The crude product is purified by silica gel chromatography (elution with 6:1 hexane-ethyl acetate) to provide (4-methoxybenzenesulfonylamino) acetic acid t-butyl ester.

reactant | glycine t-butyl ester | 29.82 mmol, 5.0 grams | C(C)(C)(C)OC(CN)=O | C6H13NO2
reactant | triethylamine | 62.63 mmol, 6.65 ml | C(C)N(CC)CC | C6H15N
reactant | 4-methoxybenzenesulfonyl chloride | 29.82 mmol, 6.2 grams | COC1=CC=C(C=C1)S(=O)(=O)Cl | C7H7ClO3S
solvent | methylene chloride | 50 ml | C(Cl)Cl | CH2Cl2
solvent | water | O | H2O
product | (4-methoxybenzenesulfonylamino) acetic acid t-butyl ester | C(C)(C)(C)OC(CNS(=O)(=O)C1=CC=C(C=C1)OC)=O | C13H19NO5S
